US04496590
Boron tribromide (250 ml, 0.8 molar) in methylene dichloride was added dropwise over a period of 70 minutes to a mixture of 25.1 g of 5-chloro-2-(4-methoxyphenylamino)benzoic acid and 125 ml of dry methylene dichloride cooled to -70° C. (Dry Ice/methylene dichloride). The cooling bath was removed and the reaction mixture stirred for about 20 hours. The volatile solvent was stripped off and water (400 ml) was added dropwise to the residue cooled in an ice bath. The mixture was then made basic by addition of potassium carbonate and then acidified with dropwise addition of hydrochloric acid. The solid was collected by filtration and dried to give 19.3 g of 5-chloro-2-(4-hydroxyphenylamino)benzoic acid.

reactant | Boron tribromide | 0.8 molar, 250 ml | B(Br)(Br)Br | BBr3
reactant | 5-chloro-2-(4-methoxyphenylamino)benzoic acid | 25.1 g | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC=C(C=C1)OC | C14H12ClNO3
reactant | Dry Ice methylene dichloride | C(=O)=O.C(Cl)Cl
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 125 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-(4-hydroxyphenylamino)benzoic acid | 19.3 g | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC=C(C=C1)O | C13H10ClNO3
